2117-11-19 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-11-18**] 05:00 PM
   Midazolam (Versed) - [**2117-11-18**] 08:00 PM
   Fentanyl - [**2117-11-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 124 (75 - 137) bpm
   BP: 106/76(82) {83/58(68) - 135/80(89)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  3,696 mL
                                                                    450 mL
   PO:
                  100 mL
   TF:
   IVF:
                                                                  2,010 mL
   Blood products:
                                                                  1,686 mL
                                                                    350 mL
   Total out:
                                                                  1,918 mL
                                                                     44 mL
   Urine:
                                                                  1,018 mL
                                                                     44 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   9.6 g/dL
   84 mg/dL
   4.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   41 mg/dL
   101 mEq/L
   144 mEq/L
   28.9 %
   7.3 K/uL
        [image002.jpg]
                            [**2117-11-18**]  05:38 PM
                            [**2117-11-19**]  12:21 AM
                            [**2117-11-19**]  03:49 AM
   WBC
   10.2
   7.3
   Hct
   24.1
   25.6
   28.9
   Plt
   212
   185
   Cr
   8.1
   4.6
   Glucose
   71
   84
   Other labs: PT / PTT / INR:19.4/35.4/1.8, Ca++:6.9 mg/dL, Mg++:1.7
   mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   46 yo M w/ vasculopathy, ESRD and GIB w/ hyperkalemia
   #GIB: Hct dropped 7 points since yesterday. Could all be due to diffuse
   bruising and hematochezia. Given elevated potassium would consider
   intermittent upper GIB as the source vs. hemolysis. Pt. has antibodies
   to blood products from 2 failed transplants, will need special blood
   from blood bank. INR therapeutic, but likely causing bleeding.
   - Transfuse when blood ready
   - FFP
   - Hold warfarin
   - f/u vascular surgery, reconsider necessity of warfarin
   - check haptoglobin/LDH/bili
   - Appreciate GI recs
   - Hold metoprolol, amlodipine
   - Vitamin K
   .
   # Vasculopathy: Started on warfarin on previous admission to vascular
   for occlusion of DP/PT arteries.
   - Hold warfarin
   - Continue ASA/plavix for now given fresh stent
   - cilostazol, atorvastatin
   .
   #Hyperkalemia: Strange that it developed so quickly, source of K likely
   from RBCs either hemolysis or blood in the GI tract. Got kayexelate,
   insulin and glucose in ED. Will get dialyzed in ICU.
   - Dialyze
   - Repeat EKG
   - Albuterol/calcium gluconate acutely
   - Repeat lytes
   .
   #ESRD: Still makes urine from transplant kidney, so has been maintained
   on prednisone and  sirolimus but is dialysis dependent. Urgent dialysis
   indicated given potassium.
   - dialyze.
   - Prednisone, sirolimus
   - sevelamer
   - HD dose meds
   .
   #Failed renal transplant: appears he is still taking immunosuppresants
   as he still makes urine and is in the process of being relisted.
   - sirolimus, prednisone
   - f/u renal recs
   .
   #Afib: On metoprolol for rate control at home
   - low dose metoprolol for rate control.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-11-18**] 06:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-11-19 09:49:00 Physician Attending Progress Note
Chief Complaint: GIB
   HPI:
   47yoM with ESRD, PVD with recent stent to SFA on coumadin and
   anti-platelet agents; admitted with GIB.
   24 Hour Events:
   EGD yesterday without a clear source of active bleeding.  He became
   hemodynamically unstable with SBP to 80s post-procedure; improved with
   bolus; HCT stable and no evidence ongoing bleeding suggestive of
   sedation effect.
   He received total of PRBC x 4units with HCT from 22 to 29; also FFP x
   3units and vitamin K with INR from 2.2 to 1.8.  He continued to have
   small amounts of watery melena.
   Also developed afib with RVR in setting of holding metoprolol; given BB
   and had improvement in his HR.
   History obtained from Patient
   Allergies:
   Sulfonamides
   Rash;
   Other ICU medications:
   Midazolam (Versed) - [**2117-11-18**] 08:00 PM
   Fentanyl - [**2117-11-18**] 08:00 PM
   Morphine Sulfate - [**2117-11-19**] 07:45 AM
   Pantoprazole (Protonix) - [**2117-11-19**] 07:51 AM
   Other medications:
   Sevelamer
   Gabapentin
   Prednisone 10mg
   Nephrocaps
   Atorvastatin
   Plavix 75mg
   ASA 81mg
   Protonix [**Hospital1 **]
   Lopressor
   Sirolimus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-19**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 104 (75 - 137) bpm
   BP: 106/70(79) {83/58(68) - 135/83(89)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,696 mL
                                                                    790 mL
   PO:
           150 mL
   TF:
   IVF:
                                                                  2,010 mL
                                                                     10 mL
   Blood products:
                                                                  1,686 mL
                                                                    630 mL
   Total out:
                                                                  1,918 mL
                                                                     44 mL
   Urine:
                                                                  1,018 mL
                                                                     44 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), IR/IR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: crackles
   at right base : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   185 K/uL
   84 mg/dL
   4.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   41 mg/dL
   101 mEq/L
   144 mEq/L
   28.9 %
   7.3 K/uL
        [image002.jpg]
                            [**2117-11-18**]  05:38 PM
                            [**2117-11-19**]  12:21 AM
                            [**2117-11-19**]  03:49 AM
   WBC
   10.2
   7.3
   Hct
   24.1
   25.6
   28.9
   Plt
   212
   185
   Cr
   8.1
   4.6
   Glucose
   71
   84
   Other labs: PT / PTT / INR:19.4/35.4/1.8, ALT / AST:146/38, Ca++:6.9
   mg/dL, Mg++:1.7 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   47yoM with ESRD, admitted with GIB in setting of anticoagulation for
   recent stent and PVD.
   1.  GIB:  s/p endoscopy yesterday without clear source of bleeding.
   -  GI to repeat EGD this morning to evaluate for source of bleeding
   - check cdiff
   - prep for colonoscopy if EGD is negative; consider tagged RBC scan if
   evidence of active bleeding prior to colonoscopy
   - surgery team following
   - repeat coags this morning; goal INR < 1.5
   2.  Atrial fibrillation
   - anticoagulation after acute bleeding resolves
   - TTE with bubble to evaluate for PFO
   - amiodarone
   3.  Renal:  HD yesterday for hyperkalemia
   - continue immunosuppresant regimen: prednisone and sirolimus
   4.       Hypoxemia: Possible desaturation overnight
   -  CXR today (crackles at right base)
   ICU Care
   Nutrition:  Comments: NPO for procedures
   Glycemic Control:  Regular insulin sliding scale
   Lines:  18 Gauge - [**2117-11-18**] 06:47 PM
   Prophylaxis:
   DVT: Boots(active bleeding)
   Stress ulcer: PPI
   VAP:   Comments: Not intubated
   Communication:  Comments: Patient updated during rounds
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2117-11-20 08:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2117-11-19**] 10:05 AM
 STOOL CULTURE - At [**2117-11-19**] 12:00 PM
 TRANSTHORACIC ECHO - At [**2117-11-19**] 12:01 PM
   with bubble study
   Second EGD found duodenal ulcer with some evidence of recent bleeding
   but no active bleeding.
   HCT trend 28.9->27->28.2->27->25.8 now getting 2 units PRBCs with some
   continued melena (X2 overnight).
   C.diff sent
   TTE w/o significant effustion, no PFO or VSD
   Stopped metoprolol and started IV amio with some improvement in HR.
   Started on fluconazole PO and nystatin S+S for apparent candidal
   esophagitis on EGD.
   Received another dose of 5mg Vit. K for INR 1.8 in am.
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Midazolam (Versed) - [**2117-11-19**] 10:00 AM
   Fentanyl - [**2117-11-19**] 10:05 AM
   Amiodarone - [**2117-11-19**] 12:14 PM
   Pantoprazole (Protonix) - [**2117-11-19**] 08:00 PM
   Morphine Sulfate - [**2117-11-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-20**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 108 (97 - 121) bpm
   BP: 151/81(99) {99/56(66) - 179/91(110)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,758 mL
                                                                    499 mL
   PO:
                                                                    360 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    768 mL
                                                                    199 mL
   Blood products:
                                                                    630 mL
   Total out:
                                                                    110 mL
                                                                     80 mL
   Urine:
                                                                    110 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,648 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Gen: Cachectic, A/Ox3
   HEENT: No icterus, large papillae on tongue
   Heart: irregularly irregular, tachycardic
   Lungs: CTAB
   Abd: Soft, NT, ND, Hyperactive BS.
   Ext: Dusky toes unchanged on Left foot
   Labs / Radiology
   186 K/uL
   8.8 g/dL
   104 mg/dL
   6.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   52 mg/dL
   100 mEq/L
   142 mEq/L
   25.8 %
   9.3 K/uL
        [image002.jpg]
                            [**2117-11-18**]  05:38 PM
                            [**2117-11-19**]  12:21 AM
                            [**2117-11-19**]  03:49 AM
                            [**2117-11-19**]  10:26 AM
                            [**2117-11-19**]  04:50 PM
                            [**2117-11-19**]  10:36 PM
                            [**2117-11-20**]  04:13 AM
   WBC
   10.2
   7.3
   9.3
   Hct
   24.1
   25.6
   28.9
   27.0
   28.2
   27.1
   25.8
   Plt
   [**Telephone/Fax (3) 10489**]
   Cr
   8.1
   4.6
   6.4
   Glucose
   71
   84
   104
   Other labs: PT / PTT / INR:13.0/28.1/1.1, Fibrinogen:574 mg/dL,
   Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:6.9 mg/dL
   Imaging: ECHO: No atrial septal defect or patent foramen ovale is seen
   by 2D, color Doppler or saline contrast with maneuvers. Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. Overall left ventricular systolic function is mildly
   depressed (LVEF= 50-55%). Right ventricular chamber size and free wall
   motion are normal. The right ventricular cavity is mildly dilated with
   mild global free wall hypokinesis. There is a small pericardial
   effusion.
   IMPRESSION: No PFO or ASD seen. Mild global biventricular systolic
   dysfunction. Small circumferential pericardial effusion.
   CT ABD: 1. No mesenteric or retroperitoneal hemorrhage.
   2. Moderate pericardial effusion, unchanged.
   3. Subsegmental atelectasis at the lung bases.
   4. Extensive abdominal arteriosclerosis with some superimposed
   atherosclerosis.
   5. Cholelithiasis.
   6. Distended urinary bladder.
   EGD:
   Impression: Small hiatal hernia
   Thick exudates, erythema of mucosa throughout the esophagus in the
   esophagus
   Ulcer in the proximal bulb
   Mild erythema in the proximal bulb
   Otherwise normal EGD to third part of the duodenum
   Recommendations: continue iv ppi
   please send H.pylori serology
   please check for [**Female First Name (un) **] of the tongue, if possible, could also have
   [**Female First Name (un) **] esophagitis, did not blush esophagus since pt on Plavix.
   Microbiology: GRAM STAIN- R/O THRUSH (Final [**2117-11-19**]):
         NO [**Doctor Last Name **] ORGANISMS SEEN.
         NEGATIVE FOR YEAST.
   Feces negative for C.difficile toxin A & B by EIA.
   HELICOBACTER PYLORI ANTIBODY TEST (Pending)
   Assessment and Plan
 INEFFECTIVE COPING
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   46 yo M w/ vasculopathy, ESRD and GIB on ASA/plavix/coumadin
   #GI bleed: Hct did not bump entirely appropriately with 4U PRBCs
   yesterday, continues to trend down with [**Doctor First Name 10490**].  Will do 2 units today.
   - FFP for INR > 1.5
   - Hold warfarin, watching INR
   - Appreciate GI recs
   - Hold metoprolol, amlodipine
   - Consider TEE for source of emboli given Afib
   .
   # Vasculopathy: Left foot appears stable.
   - Hold warfarin
   - hold ASA/plavix pending repeat Hct today
   - cilostazol, atorvastatin
   .
   #Urinary retention: Likely secondary to opiates given recent admit for
   pain control and no neurologic deficits, sphincter tone is normal.
   - Cautious opiate use
   - Continue foley for now
   .
   #ESRD:
   - Appreciate renal recs
   - dialyze.
   - Prednisone, sirolimus
   - sevelamer
   - HD dose meds
   .
   #Failed renal transplant: appears he is still taking immunosuppresants
   as he still makes urine and is in the process of being relisted.
   - sirolimus, prednisone
   - f/u renal recs
   .
   #Afib: On metoprolol for rate control at home
   - low dose metoprolol for rate control.
   - amio gtt
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI,
   # ACCESS: PIV
   # CODE:  Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: call out to floor if Hct stable
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-11-19**] 06:16 PM
   20 Gauge - [**2117-11-19**] 08:00 PM
   Prophylaxis:
   DVT: no anticoagulation, pneumoboots
   Stress ulcer: PPI
   Communication:  Patient
   Code status: Full code
   Disposition: ICU

2117-11-20 08:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 y o man with ESRD, PVD, recent LE arterial emoblism, admitted with
   GIB
   24 Hour Events:
   ENDOSCOPY - At [**2117-11-19**] 10:05 AM: Duodenal ulcer seen, but clean base
   and no active bleeding
   Hct 22 to 28.9 with 4 units of blood, then to 25.8 at 4am with no more
   blood, written for 2 more units after that
   3 more episodes of maroon stools o/n and this am
   INR 1.8, got 1 more dose of vit K
   TRANSTHORACIC ECHO: no PFO or ASD, small pericardial effusion
   Remains in AF, on amiodarone gtt
                   History obtained from Patient
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2117-11-19**] 12:14 PM
   Pantoprazole (Protonix) - [**2117-11-20**] 08:25 AM
   Morphine Sulfate - [**2117-11-20**] 08:26 AM
   Other medications:
   Sevelamer (on hold [**1-11**] NPO)
   Gabapentin 200 tid
   Nephrocaps
   Atorvastatin 20 mg qhs
   Plavix 75 mg po daily (held this am)
   ASA 81 mg daily (held this am)
   Pantoprazole 40 IV Q12
   Sirolimus 2 mg PO daily
   Fluconazole 200 mg daily
   Nystatin 5ml S/S
   Prednisone 10 mg QOD (got yest)
   PRNs: morphine IV (10 mg since yest)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-20**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 109 (97 - 118) bpm
   BP: 182/112(109) {99/56(66) - 182/112(110)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,758 mL
                                                                    616 mL
   PO:
                                                                    360 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    768 mL
                                                                    316 mL
   Blood products:
                                                                    630 mL
   Total out:
                                                                    110 mL
                                                                     80 mL
   Urine:
                                                                    110 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,648 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Gen: NAD, awake, conversant, denying abd pain
   Chest: rales at B bases
   CV: JVP 8cm, irregularly irregular, no murmurs
   Abd: soft, NT/ND + BS
   Extr: both [**Name Prefix (Prefixes) **]  [**Last Name (Prefixes) **], L ankle with slight edema and TTP, popliteal
   pulse present B, slightly diminished on R
   Labs / Radiology
   8.8 g/dL
   186 K/uL
   104 mg/dL
   6.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   52 mg/dL
   100 mEq/L
   142 mEq/L
   25.8 %
   9.3 K/uL
        [image002.jpg]
                            [**2117-11-18**]  05:38 PM
                            [**2117-11-19**]  12:21 AM
                            [**2117-11-19**]  03:49 AM
                            [**2117-11-19**]  10:26 AM
                            [**2117-11-19**]  04:50 PM
                            [**2117-11-19**]  10:36 PM
                            [**2117-11-20**]  04:13 AM
   WBC
   10.2
   7.3
   9.3
   Hct
   24.1
   25.6
   28.9
   27.0
   28.2
   27.1
   25.8
   Plt
   [**Telephone/Fax (3) 10489**]
   Cr
   8.1
   4.6
   6.4
   Glucose
   71
   84
   104
   Other labs: PT / PTT / INR:13.0/28.1/1.1, Fibrinogen:574 mg/dL,
   Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:6.9 mg/dL
   Micro:
   C. diff neg, H. pylori pending
   TTE [**2117-11-19**]:
   No atrial septal defect or patent foramen ovale is seen by 2D, color
   Doppler or saline contrast with maneuvers. Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded.
   Overall left ventricular systolic function is mildly depressed (LVEF=
   50-55%). Right ventricular chamber size and free wall motion are
   normal. The right ventricular cavity is mildly dilated with mild global
   free wall hypokinesis. There is a small pericardial effusion.
   Assessment and Plan
   47yoM with ESRD, admitted with GIB in setting of anticoagulation for
   recent stent and PVD.
   1.  GIB:  s/p endoscopy two days ago without clear source of bleeding,
   yesterday repeat EGD showed a duodenal ulcer with a clean base and no
   active bleeding. Continuing to have maroon stools, Hct drifting down.
   Per GI, ?aorto-enteric fistula.  C. diff negative, h. pylori pending.
   - will d/w GI and rads re: CTA vs. tagged red blood cell scan or both
   - prep today for [**Last Name (un) **] tomorrow
   - continue to trend Hct Q8hours, goal > 25
   - f/up h. pylori
   - surgery team following
   - keep INR < 1.5
   2.  Atrial fibrillation: AF with RVR here with GIB, BBL on hold given
   HoTN yesterday.  No PFO or ASD on TTE.
   - coumadin on hold given GIB
   - continue amiodarone gtt at 0.5 mg/min
   - replete Mg to > 2, K to goal of 4 (low dose repletion given ESRD)
   3.  Renal: had HD thursday for hyperkalemia, now K low and in AF
   - HD today: after CTA to dialyze contrast load
   - low-dose K repletion with goal K of 4
   - continue immunosuppresant regimen: prednisone and sirolimus
   4. Hypoxemia: CT from [**11-18**] with bibasilar atelectasis. Actively
   bleeding, appears euvolemic on exam.
   - Check CXR today
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:  n/a
   Lines:  2 PIVs
   18 Gauge - [**2117-11-19**] 06:16 PM
   20 Gauge - [**2117-11-19**] 08:00 PM
   Prophylaxis:
   DVT: boots ordered, patient using on/off
   Stress ulcer:  IV PPI
   Communication:  with patient
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min CCT

2117-11-21 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Melena x 3 yesterday.  tagged RBC scan negative.  CT abd with contrast,
   read p
   held asa, plavix x  1 day
   Converted to NSR ~ 10PM
   GI may scope tomorrow, then [**Last Name (un) **].
   Spiked to 101 with rigors.  Cultured and started Vanc/Zosyn for ? PNA
   on CXR
   Hemodialysis yesterday 2.5 L
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2117-11-20**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2117-11-21**] 05:08 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-11-20**] 06:42 PM
   Pantoprazole (Protonix) - [**2117-11-20**] 08:55 PM
   Morphine Sulfate - [**2117-11-21**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 83 (78 - 137) bpm
   BP: 148/49(73) {109/44(70) - 197/132(137)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.6 kg (admission): 60 kg
   Height: 70 Inch
             Total In:
                                                                  2,300 mL
                                                                    301 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,010 mL
                                                                    301 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,927 mL
                                                                    395 mL
   Urine:
                                                                    327 mL
                                                                    145 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                   -627 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Gen: Cachectic, A/Ox3
   HEENT: No icterus, large papillae on tongue
   Heart: irregularly irregular, tachycardic
   Lungs: CTAB
   Abd: Soft, NT, ND, Hyperactive BS.
   Ext: Dusky toes unchanged on Left foot
   Labs / Radiology
   155 K/uL
   10.7 g/dL
   157 mg/dL
   4.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   25 mg/dL
   98 mEq/L
   137 mEq/L
   30.7 %
   8.6 K/uL
        [image002.jpg]
                            [**2117-11-18**]  05:38 PM
                            [**2117-11-19**]  12:21 AM
                            [**2117-11-19**]  03:49 AM
                            [**2117-11-19**]  10:26 AM
                            [**2117-11-19**]  04:50 PM
                            [**2117-11-19**]  10:36 PM
                            [**2117-11-20**]  04:13 AM
                            [**2117-11-20**]  01:44 PM
                            [**2117-11-20**]  09:44 PM
                            [**2117-11-21**]  04:08 AM
   WBC
   10.2
   7.3
   9.3
   8.6
   Hct
   24.1
   25.6
   28.9
   27.0
   28.2
   27.1
   25.8
   31.5
   30.5
   30.7
   Plt
   [**Telephone/Fax (3) 10510**]55
   Cr
   8.1
   4.6
   6.4
   4.7
   Glucose
   71
   84
   104
   157
   Other labs: PT / PTT / INR:14.6/26.5/1.3, Fibrinogen:696 mg/dL,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   GI Bleed study, CT angiogram: reads pending
THROAT CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
Blood, urine
   46 yo M w/ vasculopathy, ESRD and GIB on ASA/plavix/coumadin, fevers
   # Fevers: Patient with fevers overnight with no clear source.  Possible
   etiologies include pneumonia, transudated GI flora, foot source
   - Emperic Vanc/Zosyn
   - repeat sputum culture
   - d/c at 48 hours if cultures negative
   #GI bleed: Hct stabilizing, increased from 26 to 31 with 2 units
   yesterday.  GI bleed study and CTA unable to localize source of bleed.
   Loose brown stool overnight
   - EGD/[**Last Name (un) **] per GI
   - Hold warfarin, watching INR
   - Hold metoprolol, amlodipine
   .
   # Vasculopathy: Left foot appears stable.
   - Vascular following
   - Hold warfarin
   - resume ASA/plavix
   - cilostazol, atorvastatin
   .
   #Urinary retention: Likely secondary to opiates given recent admit for
   pain control and no neurologic deficits, sphincter tone is normal.
   - Cautious opiate use
   - Continue foley for now
   .
   #ESRD:
   - Appreciate renal recs
   - Prednisone, sirolimus
   - sevelamer
   - HD dose meds
   .
   #Failed renal transplant: appears he is still taking immunosuppresants
   as he still makes urine and is in the process of being relisted.
   - sirolimus, prednisone
   - f/u renal recs
   .
   #Afib: On metoprolol for rate control at home.  Converted to NSR
   overnight.
   - stopped amio and restarted metoprolol (less than home dose 12.5 QID)
   - switch to PO amiodarone today
   .
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-11-19**] 06:16 PM
   20 Gauge - [**2117-11-19**] 08:00 PM
   Prophylaxis:
   DVT: no anticoagulation, pneumoboots
   Stress ulcer: PPI
   Communication:  Patient
   Code status: Full code
   Disposition: ICU

2117-11-22 11:43:00 Physician Attending Progress Note
Chief Complaint:
   GIB
   HPI:
   46M w/ ESRD s/p failed transplants; here with GIB in setting of
   ASA/plavix/coumadin for recent stent to L SFA.
   24 Hour Events:
   Over weekend had RBC scan, CTA without evidence of aorto-enteric
   fistula or other source of bleed.  He remained hemodynamically stable,
   HCT stable.
   Evaluated by vascular surgery yesterday with concern for LLL
   progression; awaiting demarcation prior to amputation/debridement.
   Also started on antibiotics over the weekend with concern for HAP.
   Now back in sinus rhythm.
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2117-11-21**] 02:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2117-11-22**] 08:00 AM
   Vancomycin (HD)
   Other ICU medications:
   Morphine Sulfate - [**2117-11-22**] 07:43 AM
   Pantoprazole (Protonix) - [**2117-11-22**] 08:00 AM
   Other medications:
   Neprhocaps
   Atorvastatin
   Plavix 75mg
   ASA
   Sirolimus
   Fluconazole
   Nystatin
   Prednisone 10mg qod
   Gabapentin
   Sevelamer
   Lopressor 12.5mg qid
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-22**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 75 (69 - 86) bpm
   BP: 163/49(73) {139/24(58) - 193/133(136)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 62.6 kg (admission): 60 kg
   Height: 70 Inch
             Total In:
                                                                  2,010 mL
                                                                    560 mL
   PO:
                                                                  1,360 mL
                                                                    430 mL
   TF:
   IVF:
                                                                    650 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    590 mL
   Urine:
                                                                    485 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    525 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Gen: awake, alert, NAD
   Chest: clear lungs
   CV:  RRR
   Abd:  s/nt/nd
   Ext:  no edema; left foot dusky, stable.
   Labs / Radiology
   11.1 g/dL
   132 K/uL
   88 mg/dL
   6.2 mg/dL
   29 mEq/L
   4.2 mEq/L
   35 mg/dL
   99 mEq/L
   141 mEq/L
   33.9 %
   7.9 K/uL
        [image002.jpg]
                            [**2117-11-19**]  10:26 AM
                            [**2117-11-19**]  04:50 PM
                            [**2117-11-19**]  10:36 PM
                            [**2117-11-20**]  04:13 AM
                            [**2117-11-20**]  01:44 PM
                            [**2117-11-20**]  09:44 PM
                            [**2117-11-21**]  04:08 AM
                            [**2117-11-21**]  11:55 AM
                            [**2117-11-21**]  07:30 PM
                            [**2117-11-22**]  04:36 AM
   WBC
   9.3
   8.6
   7.9
   Hct
   27.0
   28.2
   27.1
   25.8
   31.5
   30.5
   30.7
   31.3
   30.6
   33.9
   Plt
   186
   155
   132
   Cr
   6.4
   4.7
   6.2
   Glucose
   104
   157
   88
   Other labs: PT / PTT / INR:16.8/29.4/1.5, Fibrinogen:696 mg/dL,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Micro: sputum
 pending; urine cultures
 pending; blood cultures
   growth to date
   Assessment and Plan
   46M with ESRD s/p failed renal transplants now on HD; here with GIB
   which is stable.  Other issues include peripheral vascular disease with
   likely embolic event to left toes.
   1.       GI:  Stable HCT, BP, evaluation unrevealing for significant
   source of bleeding except for possible non-bleeding duodenal ulcer on
   EGD.
   - Stable HCT; follow daily
   2.       Peripheral vascular disease:
   - ASA/plavix; holding coumadin for time being
   - vascular to consider OR pending demarcation of ischemic digits
   3.       PNA:  febrile over the weekend, CXR with possible RLL
   infiltrate.
   - continue vancomycin/zosyn; repeat CXR.  If cultures negative, would
   likely continue vancomycin x 8 days and change to cefpodoxime for GN
   coverage
   4.       Renal:
   - HD tomorrow
   5.       CV: atrial fibrillation, HTN
   - uptitrate lopressor
   - restart norvasc
   ICU Care
   Nutrition: renal diet
   Glycemic Control:  insulin sliding scale
   Lines:
   18 Gauge - [**2117-11-19**] 06:16 PM
   22 Gauge - [**2117-11-21**] 06:05 AM
   Prophylaxis:
   DVT: no heparin SQ secondary to recent bleeding
   Stress ulcer:  PPI
   VAP:  not intubated
   Communication:  Patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent: 20 minutes